US04760163
using isopropyl 2-chloro-4-fluoro-5-[5-chloromethyl-3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate with isopropanol there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,4-dimethyl-5-isopropoxymethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, 1H--NMR (CDCl3, 400 MHz) 7.82 ppm (d, 1H), 7.32 ppm (d, 1H), 5.22 ppm (m, 1H), 4.45 ppm (d, 1H), 4.34 ppm (d, 1H), 3.69 ppm (m, 1H), 3.48 ppm (s, 3H), 2.44 ppm (s, 3H), 1.35 ppm (d, 6H), 1.21 ppm (d, 6H).

reactant | isopropyl 2-chloro-4-fluoro-5-[5-chloromethyl-3,6-dihydro-3,4-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)CCl)C)C)=O | C17H17Cl2FN2O4
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,4-dimethyl-5-isopropoxymethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)COC(C)C)C)C)=O | C20H24ClFN2O5
